US07122543B2
Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate
Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate (343 mg, 0.7360 mmol) was dissolved in methanol (10 ml), added to a methanolic suspension (40 ml) of 10% palladium-carbon (100 mg) and stirred for 16 hours at room temperature in a hydrogen atmosphere. The reaction solution was filtered and the filtrate was concentrated under reduced pressure to give the title compound (223 mg, 0.5930 mmol, 81%).

reactant | Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate | 0.7360 mmol, 343 mg | COC=1C(=C(CC=2C(=C(C(=O)OC)C=CC2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C27H30O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-carbon | 40 ml, 100 mg | [C].[Pd]
product | Methyl 3-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 0.5930 mmol, 223 mg, 81% | COC=1C(=C(CC=2C(=C(C(=O)OC)C=CC2)O)C(=C(C1OC)OC)OC)C | C20H24O7
